US07557114B2
(d) (5-Fluoro-2-hydroxymethyl-4-iodo-phenyl)-methanol
To 9.38 mmol 4-fluoro-5-iodo-phthalic acid dimethyl ester in 25 ml absolute ethanol was added 9.38 mmol calcium chloride. 18.8 mmol sodium borohydride was then added in small portions and the reaction mixture was stirred for 4 h at room temperature, then at reflux for 2 h and then at room temperature overnight. The mixture was quenched by addition of 20 ml 1 M aq. hydrochloric acid and diluted with water and ethyl acetate. The phases were separated and the organic phase was extracted four times with dichloromethane. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo to afford the title compound as a yellow oil (98% yield). MS (m/e): 283.1 ([M+H]+, 100%).

reactant | 4-fluoro-5-iodo-phthalic acid dimethyl ester | 9.38 mmol | COC(C=1C(C(=O)OC)=CC(=C(C1)I)F)=O | C10H8FIO4
reactant | calcium chloride | 9.38 mmol | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 18.8 mmol | [BH4-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (5-Fluoro-2-hydroxymethyl-4-iodo-phenyl)-methanol | 98% yield | FC=1C(=CC(=C(C1)CO)CO)I | C8H8FIO2
